US04666913
Step 1: 6-(Bromoacetyl)-3,4-dihydro-3-methyl-2(1H)-quinazolinone
Bromoacetyl chloride (4.8 g) is added dropwise to a stirring solution of 3,4-dihydro-3-methyl-2(1H)-quinazolinone (2.5 g) and anhydrous aluminum chloride (4.9 g) in carbon disulfide (50 ml) under nitrogen. The reaction mixture is refluxed for five hours, cooled to RT and the carbon disulfide decanted. The residue is treated with hydrochloric acid (6N) and the acidic residue poured into ice water, stirred and filtered. The filtered solid is washed with water and dried in vacuo, affording the desired product, which is used in the next step without further purification, M.P. 190°-200° C. (dec).

reactant | Bromoacetyl chloride | 4.8 g | BrCC(=O)Cl | C2H2BrClO
reactant | 3,4-dihydro-3-methyl-2(1H)-quinazolinone | 2.5 g | CN1C(NC2=CC=CC=C2C1)=O | C9H10N2O
reactant | aluminum chloride | 4.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 50 ml | C(=S)=S | CS2
product | 6-(Bromoacetyl)-3,4-dihydro-3-methyl-2(1H)-quinazolinone | BrCC(=O)C=1C=C2CN(C(NC2=CC1)=O)C | C11H11BrN2O2
